US05990146
6-Hydroxymethyl-5-methoxy-1-phenylbenzimidazole Hydrochloride by the Method of Scheme 3
Borane-methyl sulfide complex (1.11 mL of 10.0N, 0.011 mol) was added dropwise at room temperature under nitrogen to a stirred solution of 5-methoxy-1-phenylbenzimidazole-6-carboxylic acid hydrochloride(1.00 g, 3.73 mmol) in THF (60 mL). After stirring at this temperature for 3 hours, the excess of reagent was destroyed by careful addition of MeOH, followed by water, and the solution was acidified with 3N HCl and stirred at room temperature for a further 30 minutes. The aqueous solution was washed with EtOAc, then basified with conc. NH3 solution, extracted with EtOAc, and the organic portion worked up to give an oily solid which was chromatographed on silica gel. EtOAc eluted foreruns, while MeOH/EtOAc (1:15) eluted the alcohol Example 53 (0.77 g, 81%). HCl salt: mp (MeOH/Et2O) 260° C. (dec.).

reactant | 5-methoxy-1-phenylbenzimidazole-6-carboxylic acid hydrochloride | 3.73 mmol, 1.00 g | Cl.COC1=CC2=C(N(C=N2)C2=CC=CC=C2)C=C1C(=O)O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 6-Hydroxymethyl-5-methoxy-1-phenylbenzimidazole Hydrochloride | Cl.OCC=1C(=CC2=C(N(C=N2)C2=CC=CC=C2)C1)OC | InChI=1S/C15H14N2O2.ClH/c1-19-15-8-13-14(7-11(15)9-18)17(10-16-13)12-5-3-2-4-6-12;/h2-8,10,18H,9H2,1H3;1H
